US05102877
A methylene chloride solution (200 ml) of dimethyl sulfoxide (15.1 ml) was cooled to -70° C. and oxalyl chloride (19.3 ml) was added thereto below -50° C. The mixture was stirred for 15 minutes, at the end of which time a solution of (2S,4R)-1-allyloxycarbonyl-4-hydroxy-2-methoxycarbonylpyrrolidine (16.3 g) in methylene chloride was added below -50° C. The mixture was stirred at the same temperature for 1 hour and, then, triethylamine (50 ml) was added at a temperature below -50° C. The mixture was further stirred at that temperature for 30 minutes. Thereafter, the temperature was allowed to rise gradually to room temperature and the reaction mixture was diluted with water and allowed to stand. The aqueous layer was then separated and extracted with 2 portions of methylene chloride. The organic layers were combined, washed with 1N hydrochloric acid twice and, then, with saturated aqueous sodium hydrogen carbonate solution, water and aqueous sodium chloride solution successively, and dried over anhydrous magnesium sulfate. Finally the solvent was distilled off under reduced pressure to give (2S)-1-allyloxycarbonyl-2-methoxycarbonyl-4-oxopyrrolidine (15.5 g).

reactant | dimethyl sulfoxide | 15.1 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 19.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2S,4R)-1-allyloxycarbonyl-4-hydroxy-2-methoxycarbonylpyrrolidine | 16.3 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)OC | C10H15NO5
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | (2S)-1-allyloxycarbonyl-2-methoxycarbonyl-4-oxopyrrolidine | 15.5 g | C(C=C)OC(=O)N1[C@@H](CC(C1)=O)C(=O)OC | C10H13NO5
